US04180394
A solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (8.25 g, 0.025 mole) in 150 ml. of ether was cooled to 0° C. and treated with a solution of methanol (1.01 ml, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole) in 25 ml. of ether. The solution was stirred for two hours, then filtered and the filtrate was cooled and treated with isopropylamine (4.25 ml. 0.05 mole) in 100 ml. of ether. After stirring for 16 hours, the mixture was filtered and the filtrate was washed with water, dried over sodium sulfate and concentrated in vacuo to yield ethyl N-trifluoroacetyl-N-(methoxy(isopropylamino)phosphonomethyl)glycinate (6.1 g) as a yellow oil, ND =1.4335.

reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.025 mole, 8.25 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | methanol | 0.025 mole, 1.01 ml | CO | CH4O
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
reactant | isopropylamine | 0.05 mole, 4.25 ml | C(C)(C)N | C3H9N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(methoxy(isopropylamino)phosphonomethyl)glycinate | 6.1 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(ONC(C)C)O)OC)(F)F | C11H20F3N2O7P
